US04906394
Preparation of E-Caprolactone-THAM Adduct
About 121.0 g (1.0 mole) of 2-amino-2-(hydroxymethyl)-1,3-propanediol (THAM) was combined with 114.0 g (1.0 mole) of E-Caprolactone and 0.1 g stannous octanoate Sn(OCT)2. As the reaction mixture was slowly heated to 150° C., a clear solution was obtained. Infrared analysis of the reaction product showed no unreacted caprolactone. Upon heating the product cyclized to a hydroxy-oxazoline, and a strong absorption band at 6.0 microns in the infrared spectrum was observed. The product analyzed for 50.94% C, 9.29% H and 5.79% N.

reactant | 2-amino-2-(hydroxymethyl)-1,3-propanediol | 1.0 mole, 121.0 g | NC(CO)(CO)CO | C4H11NO3
reactant | E-Caprolactone | 1.0 mole, 114.0 g | C1CCC(=O)OCC1 | C6H10O2
reactant | caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | hydroxy-oxazoline | OC=1OCCN1 | C3H5NO2
product | E-Caprolactone THAM | C1CCC(=O)OCC1.C(C(CO)(CO)N)O | InChI=1S/C6H10O2.C4H11NO3/c7-6-4-2-1-3-5-8-6;5-4(1-6,2-7)3-8/h1-5H2;6-8H,1-3,5H2
